US07781454B2
Step 2: [5-Chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]acetic acid
tert-Butyl[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]acetate (50 mg, 0.12 mmol) was dissolved in TFA (3 mL). After 1 hour, the reaction mixture was concentrated under reduced pressure to yield the title compound. 1H NMR (DMSO-d6) δ 7.90 (d, J=8.9 Hz, 1H), 7.84 (m, 1H), 7.80 (d, J=8.9 Hz, 1H), 7.52 (m, 1H), 7.58 (m, 1H), 5.70 (s, 1H).

reactant | tert-Butyl[5-chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]acetate | 0.12 mmol, 50 mg | C(C)(C)(C)OC(CN1N=NC2=C1C=CC(=C2OC2=CC(=CC(=C2)C#N)Cl)Cl)=O | C19H16Cl2N4O3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | [5-Chloro-4-(3-chloro-5-cyanophenoxy)-1H-1,2,3-benzotriazol-1-yl]acetic acid | ClC1=C(C2=C(N(N=N2)CC(=O)O)C=C1)OC1=CC(=CC(=C1)C#N)Cl | C15H8Cl2N4O3
